US04080330
A solution of 9.1 ml of 3-bromopropionylchloride in 10 ml of dry benzene was added dropwise to a solution of 10.0 g of 3-phenylindoline and 10 ml of triethylamine in 100 ml of dry benzene cooled to 10° C. The precipitated triethylamine hydrochloride was separated by filtration, the benzene was removed from the filtrate in vacuo at room temperature and the residue recrystallized from ethanol to give 5.6 g of the desired N-(3-bromopropionyl)-3-phenylindoline having a melting point of 98°-9° C.

reactant | 3-bromopropionylchloride | 9.1 ml | BrCCC(=O)Cl | C3H4BrClO
reactant | 3-phenylindoline | 10.0 g | C1(=CC=CC=C1)C1CNC2=CC=CC=C12 | C14H13N
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(3-bromopropionyl)-3-phenylindoline | 5.6 g | BrCCC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C17H16BrNO
